US04294960
The solution of 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-cephem-4-carboxylic acid (syn isomer 10.8 g.), conc. hydrochloric acid (11 g.) and methanol (350 ml.) was stirred at room temperature for 4 hours. After concentrating the resultant solution under reduced pressure, ethyl acetate was added to the residue. The solution was adjusted to pH 8.0 with a saturated aqueous solution of sodium bicarbonate and the aqueous layer was separated and washed with diethyl ether. After nitrogen gas was bubbled in the aqueous solution, the aqueous solution was adjusted to pH 4.0 with 10% hydrochloric acid. The precipitates were collected by filtration and washed with water to give 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido}-3-cephem-4-carboxylic acid (syn isomer, 8.2 g.), m.p.>290° C.

reactant | 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-cephem-4-carboxylic acid | 10.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C14H13N5O6S2
reactant | hydrochloric acid | 11 g | Cl | ClH
solvent | methanol | 350 ml | CO | CH4O
product | 7-{2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido}-3-cephem-4-carboxylic acid | 8.2 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C13H13N5O5S2
